US07781436B2
2-{6-Chloro-3-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-1-piperazin-1-yl-ethanone
Analogous to general procedure I, the coupling of {6-chloro-3-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid (prepared herein) with (commercially available) piperazine-1-carboxylic acid tert-butyl ester gave, after treatment with TFA and neutralisation, the title compound.

reactant | {6-chloro-3-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C24H25ClN2O5
reactant | piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-{6-Chloro-3-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-1-piperazin-1-yl-ethanone | ClC1=CC=C2C(=CN(C2=C1)CC(=O)N1CCNCC1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C28H33ClN4O4
